US05296484
N-[[3-(Trifluoromethyl)phenyl]methyl]-4-quinazolinamine
A mixture of 1.65 g of 4-chloroquinazoline, 1.5 g of [3-(trifluoromethyl)phenyl]methyl amine, and 1.0 g of triethylamine in 50 ml of ethanol was refluxed for 6 hours. The mixture was then cooled, and washed with water. After removing solvents in vacuo the product was crystallized from a mixture of ethyl acetate and hexane. Yield: 1.0 g. M.P. 145°-146° C.

reactant | 4-chloroquinazoline | 1.65 g | ClC1=NC=NC2=CC=CC=C12 | C8H5ClN2
reactant | [3-(trifluoromethyl)phenyl]methyl amine | 1.5 g | FC(C=1C=C(C=CC1)CN)(F)F | C8H8F3N
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-[[3-(Trifluoromethyl)phenyl]methyl]-4-quinazolinamine | FC(C=1C=C(C=CC1)CNC1=NC=NC2=CC=CC=C12)(F)F | C16H12F3N3
